US08614328B2
A mixture of 3-(3,5-dichloro-benzyloxy)-phthalic acid (0.3 g, 0.9 mmol), alpha-amino-glutarimide hydrochloride (0.15 g, 0.92 mmol) in pyridine (10 mL) was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(3,5-dichloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (0.30 g, 84% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 70/30 CH3CN/0.1% H3PO4, 3.6 min (98.0%); mp, 278-280° C.; 1HNMR (DMSO-d6) δ 2.01-2.08 (m, 1H, CHH), 2.54-2.63 (m, 2H, CH2), 2.84-2.96 (m, 1H, CHH), 5.13 (dd, J=6, 12 Hz, 1H, CH), 5.40 (s, 2H, CH2), 7.50-7.89 (m, 6H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.95, 30.92, 48.79, 68.37, 115.90, 116.79, 120.02, 125.58, 127.45, 133.25, 134.18, 137.14, 140.61, 154.93, 165.34, 166.73, 169.88, 172.73. Anal Calcd For C20H14N2O5Cl2: C, 55.45; H, 3.26; N, 6.47; Cl, 16.37. Found: C, 55.20; H, 3.13; N, 6.38; Cl, 16.63.

reactant | 3-(3,5-dichloro-benzyloxy)-phthalic acid | 0.9 mmol, 0.3 g | ClC=1C=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=C(C1)Cl | C15H10Cl2O5
reactant | alpha-amino-glutarimide hydrochloride | 0.92 mmol, 0.15 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-(3,5-dichloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.30 g, 84% yield | ClC=1C=C(COC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=C(C1)Cl | C20H14Cl2N2O5
